US07786120B2
3-(4-(Piperidin-1-yl)styryl)-2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
A 50 mL flask was charged with 3-(4-(piperidin-1-yl)styryl)-5-bromo-2-fluoropyridine (521 mg, 1.44 mmol), KOAC (428 mg, 4.36 mmol), bis(pinacolato)diboron (403 mg, 1.59 mmol) and PdCl2(dppf) (30 mg, 42.7 μmol) under nitrogen. Anhydrous dioxane (30 mL) was added and the reaction mixture was heated at 120° C. for 16 h. EtOAc (30 mL) and water (50 mL) were added and the layers were separated. The organic layer was dried (MgSO4), filtered and concentrated and the residue was purified by column chromatography (15% to 50% EtOAc in PE) to give the title compound (435 mg, 83%) as a yellow solid.

reactant | 3-(4-(piperidin-1-yl)styryl)-5-bromo-2-fluoropyridine | 1.44 mmol, 521 mg | N1(CCCCC1)C1=CC=C(C=CC=2C(=NC=C(C2)Br)F)C=C1 | C18H18BrFN2
reactant | bis(pinacolato)diboron | 1.59 mmol, 403 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 42.7 μmol, 30 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 50 mL | O | H2O
product | 3-(4-(Piperidin-1-yl)styryl)-2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 435 mg, 83% | N1(CCCCC1)C1=CC=C(C=CC=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)F)C=C1 | C24H30BFN2O2
